US08133999B2
In a 20 L-volume glass reaction vessel equipped with a stirrer, a thermometer and a reflux condenser, the acetic acid solution containing 2,023 g (6.78 moles) of ethyl 3,4-bis(2-methoxyethoxy)benzoate prepared in the Synthesis Example 1 was placed. To the solution, 318 g (3.18 moles) of concentrated sulfuric acid was gently added while stirring the solution at room temperature. The mixture was heated to 60 to 70° C. To the mixture, 1,857 g (20.34 moles) of 69 wt. % nitric acid was gently added while stirring the mixture. The resulting mixture was allowed to react for 2 hours while maintaining the temperature. After the reaction was complete, the reaction solution was cooled to room temperature. To the reaction solution, 5,200 mL of a 20 wt. % aqueous sodium chloride solution and 5,200 mL of toluene were added. The separated organic layer (toluene layer) was washed twice with 7,800 mL of a 1 mole per L aqueous sodium hydroxide solution, and further washed twice with 7,800 mL of a 20 wt. % aqueous sodium chloride solution. The organic layer was concentrated under reduced pressure to obtain 2,328 g of ethyl 4,5-bis(2-methoxyethoxy)-2-nitrobenzoate as an orange liquid (isolation yield: 100%).

reactant | ethyl 3,4-bis(2-methoxyethoxy)benzoate | 6.78 moles, 2,023 g | COCCOC=1C=C(C(=O)OCC)C=CC1OCCOC | C15H22O6
reactant | sulfuric acid | 3.18 moles, 318 g | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | sodium chloride | [Cl-].[Na+]
solvent | toluene | 5,200 mL | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | ethyl 4,5-bis(2-methoxyethoxy)-2-nitrobenzoate | 2,328 g, yield: 100% | COCCOC1=CC(=C(C(=O)OCC)C=C1OCCOC)[N+](=O)[O-] | C15H21NO8
